** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/dffc/schematic/dffc.sch
.subckt dffc D VDD VSS Q CLK CLR Qn
*.PININFO CLK:B CLR:B Q:B Qn:B VDD:B VSS:B D:B
x2 VDD CLR net3 net2 VSS nor2
x7 VDD net4 CLR Q VSS nor2
x3 CLK VSS net1 D VDD nCLK tg
x5 nCLK VSS net4 net4 VDD CLK tg
x6 nCLK VSS net2 net1 VDD CLK tg
x9 CLK VSS Qn net4 VDD nCLK tg
x10 VDD nCLK CLK VSS inverter
x1 VDD net3 net1 VSS inverter
x4 VDD Qn Q VSS inverter
.ends

* expanding   symbol:  blocks/nor2/schematic/nor2.sym # of pins=5
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nor2/schematic/nor2.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/nor2/schematic/nor2.sch
.subckt nor2 vdd A B out vss
*.PININFO vdd:B A:B B:B vss:B out:B
M1 out B vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M2 out A vss vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M3 out B net1 vdd sg13_lv_pmos w=3u l=0.15u ng=2
M4 net1 A vdd vdd sg13_lv_pmos w=3u l=0.15u ng=2
.ends


* expanding   symbol:  blocks/tg/schematic/tg.sym # of pins=6
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/tg/schematic/tg.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/tg/schematic/tg.sch
.subckt tg E vss VOUT VIN vdd N_E
*.PININFO VOUT:B E:B N_E:B VIN:B vss:B vdd:B
M1 VOUT E VIN vss sg13_lv_nmos w=0.75u l=0.15u ng=1
M2 VOUT N_E VIN vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
.ends


* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter VDD out in VSS
*.PININFO VDD:B in:B out:B VSS:B
M3 out in VDD VDD sg13_lv_pmos w=1.5u l=0.15u ng=1
M4 out in VSS VSS sg13_lv_nmos w=0.75u l=0.15u ng=1
.ends

